US04564640
1-(2,6-dimethyl-4-methoxyphenyl)-3-methylamidinourea hydrochloride
7.22 grams of a 50% aqueous sodium hydroxide solution are added to a stirred mixture of methyl guanidine sulfate (9.76 g) in 200 ml of THF. The mixture is stirred for one half hour followed by the addition of anhydrous Na2SO4 (10 g). The mixture is stirred for an additional one half hour. 8.0 grams of 2,6-dimethyl-4-methoxyphenyl isocyanate in 50 ml of THF are added dropwise to the reaction mixture and the mixture stirred overnight. The reaction mixture is filtered and concentrated in vacuo to obtain a yellow oil. The yellow oil is taken up in methylene chloride and water. The methylene chloride layer is dried, filtered and concentrated in vacuo leaving an off-white solid which is dissolved in HCl-methanol, filtered and concentrated in vacuo to a yellow oil which is dissolved in ethyl acetate and methanol and recrystallized to give 7.53 grams of a white solid, M.P. 221°-224° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl guanidine sulfate | 9.76 g | S(=O)(=O)(O)O.CNC(=N)N
reactant | Na2SO4 | 10 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 2,6-dimethyl-4-methoxyphenyl isocyanate | 8.0 grams | CC1=C(C(=CC(=C1)OC)C)N=C=O | C10H11NO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | HCl methanol | Cl.CO
product | 1-(2,6-dimethyl-4-methoxyphenyl)-3-methylamidinourea hydrochloride | 7.53 grams | Cl.CC1=C(C(=CC(=C1)OC)C)NC(=O)NC(NC)=N | InChI=1S/C12H18N4O2.ClH/c1-7-5-9(18-4)6-8(2)10(7)15-12(17)16-11(13)14-3;/h5-6H,1-4H3,(H4,13,14,15,16,17);1H
